US08975254B2
a) 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile
The title compound was prepared using the method of Example 34(c) starting from 2.3 g of 2-chloro-4-(1H-pyrazol-5-yl)benzonitrile hydrochloride, 1.7 ml dipea and 1.7 g tert-butyl 2-hydroxyethylcarbamate yielding 2.08 g of the product. 1H-NMR (400 MHz; d6-DMSO): δ 1.56 (s, 2H), 2.97 (t, 2H), 4.13-4.17 (t, 2H), 6.97 (s, 1H), 7.87 (d, 1H), 7.93-8.02 (m, 2H), 8.10 (d, 1H).

reactant | 2-chloro-4-(1H-pyrazol-5-yl)benzonitrile hydrochloride | 2.3 g | Cl.ClC1=C(C#N)C=CC(=C1)C1=CC=NN1
reactant | tert-butyl 2-hydroxyethylcarbamate | 1.7 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
product | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C12H11ClN4
